US06610708B1
After the portionwise addition of 1.48 g (39.1 mmol) of sodium borohydride to a 150 ml methanolic solution of 16.6 g (39.1 mmol) of (E)-3-ethoxycarbonylmethylidene-1-triphenylmethyl-4-piperidone under ice cooling, the resulting mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The concentrate was extracted with 50 ml of water and 150 ml of ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure, whereby 16.8 g (yield: 100%) of (E)-3-ethoxycarbonylmethylidene-4-hydroxy-1-triphenylmethylpiperidine were obtained as a brown oil. 200 ml of tetrahydrofuran and 6.70 g (35.2 mmol) of p-toluenesulfonic acid monohydrate were added to the resulting product and the resulting mixture was stirred at 50° C. for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure. The resulting solid was washed with toluene, whereby 10.8 g (yield: 86.6%) of the p-toluenesulfonate salt of 3-ethoxycarbonylmethylidene-4-hydroxypiperidine were obtained.

reactant | sodium borohydride | 39.1 mmol, 1.48 g | [BH4-].[Na+]
reactant | (E)-3-ethoxycarbonylmethylidene-1-triphenylmethyl-4-piperidone | 39.1 mmol, 16.6 g | C(C)OC(=O)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H27NO3
product | (E)-3-ethoxycarbonylmethylidene-4-hydroxy-1-triphenylmethylpiperidine | 16.8 g, yield: 100% | C(C)OC(=O)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NO3
